US07915300B2
Ethyl 5-methoxybenzofuran carboxylate (22.7 mmol) was dissolved in dichlormethane (20 ml) and a 1.0 M solution of boron tribromide methyl sulphide complex in dichloromethane (68.1 mmol) was added. The mixture was heated at reflux over night The solvent was evaporated under vacuo and the residue purified by flash chromatography to obtain ethyl 5-hydroxybenzofuran carboxylate as a white solid.

reactant | Ethyl 5-methoxybenzofuran carboxylate | 22.7 mmol | COC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C12H12O4
solvent | dichlormethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 68.1 mmol | ClCCl | CH2Cl2
product | ethyl 5-hydroxybenzofuran carboxylate | OC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H10O4
